US08334292B1
Step 2: Preparation of 4,4,5,5-tetramethyl-2-(4-(tetrahydro-2H-pyran-4-yloxy)phenyl)-1,3,2-dioxaborolane
A mixture of 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (1 g, 4.5 mmole), tetrahydro-2H-pyran-4-yl 4-methylbenzenesulfonate (1.4 g, 5.4 mmole) and K2CO3 (1.3 g, 9 mmole) in DMF (10 mL) was heated at 85° C. for 20 h. The mixture was diluted with ethyl acetate, washed with water, dried over MgSO4, filtered, and concentrated under vacuum. The residue was purified by ISCO (silica gel, elute: 10% ethyl acetate in hexane) to give the title compound (335 mg, 24% yield) as a solid. MS (ESI) m/z: Calc. 304.2 (M+). Found: 305.3 (M++1).

reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 4.5 mmole, 1 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)O)C | C12H17BO3
reactant | tetrahydro-2H-pyran-4-yl 4-methylbenzenesulfonate | 5.4 mmole, 1.4 g | CC1=CC=C(C=C1)S(=O)(=O)OC1CCOCC1 | C12H16O4S
reactant | K2CO3 | 9 mmole, 1.3 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4,4,5,5-tetramethyl-2-(4-(tetrahydro-2H-pyran-4-yloxy)phenyl)-1,3,2-dioxaborolane | 335 mg, 24% yield | CC1(OB(OC1(C)C)C1=CC=C(C=C1)OC1CCOCC1)C | C17H25BO4
